US06117873
Diethyl N-(2,3-dimethoxy-7-nitroquinoxalin-5-ylmethyl)-2-aminophenylphosphonate
190 mg (0.579 mmol) of 5-bromomethyl-7-nitro-2,3-dimethoxyquinoxaline, 159 mg (1.2 eq.) of diethyl 2-aminophenylphosphonate and 0.2 ml (2 eq.) of diisopropylethylamine are stirred at reflux for 20 hours in 8 ml of acetonitrile. The reaction mixture is evaporated and the residue is extracted with water and ethyl acetate. The combined organic phases are dried using brine and magnesium sulfate and evaporated. The title compound is obtained as a yellow solid.

reactant | 5-bromomethyl-7-nitro-2,3-dimethoxyquinoxaline | 0.579 mmol, 190 mg | BrCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H10BrN3O4
reactant | diethyl 2-aminophenylphosphonate | 159 mg, 1.2 eq. | NC1=C(C=CC=C1)P(OCC)(OCC)=O | C10H16NO3P
reactant | diisopropylethylamine | 0.2 ml, 2 eq. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | Diethyl N-(2,3-dimethoxy-7-nitroquinoxalin-5-ylmethyl)-2-aminophenylphosphonate | COC1=NC2=CC(=CC(=C2N=C1OC)CNC1=C(C=CC=C1)P(OCC)(OCC)=O)[N+](=O)[O-] | C21H25N4O7P
